US07141596B2
Step 1. Synthesis of 2-(methylthio)phenol
2-Mercaptophenol (0.80 mL, 7.9 mmol) was added to a solution of sodium hydroxide (0.290 g, 7.2 mmol) in methanol (5.0 mL). The resulting light green solution was stirred for 30 minutes before methyl iodide (0.45 mL, 7.2 mmol) was added carefully over 1 minute. The reaction was stirred at ambient temperature for 2 hours, and was evaporated to dryness. The residue was partitioned between ether and water. The combined organic layers were dried over sodium sulfate, filtered, and evaporated to yield an oil (1.08 g, 100%). 1H NMR (400 MHz, CDCl3): δ 7.49 (dd, J=7.6 Hz, J′=1.6 Hz, 1H), 7.25 (m, 1H), 6.98 (dd, J=8.2 Hz, J′=1.4 Hz, 1H), 6.88 (td, J=7.4 Hz, J′=1.3 Hz, 1H), 6.65 (bs, 1H), 2.33 (s, 3H).

reactant | 2-Mercaptophenol | 7.9 mmol, 0.80 mL | SC1=C(C=CC=C1)O | C6H6OS
reactant | sodium hydroxide | 7.2 mmol, 0.290 g | [OH-].[Na+]
reactant | methyl iodide | 7.2 mmol, 0.45 mL | CI | CH3I
solvent | methanol | 5.0 mL | CO | CH4O
product | 2-(methylthio)phenol | 1.08 g, 100% | CSC1=C(C=CC=C1)O | C7H8OS
